US08809369B2
A mixture of 2-(5-bromo-pyridin-3-yl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester (1.0 g, 2.57 mmol), 4-tert-butylbenzeneboronic acid (0.7 g, 3.86 mmol), tetra(triphenylphosphine)palladium (150 mg, 0.13 mmol) and cesium carbonate (1.7 g, 5.14 mmol) in dimethyl formamide (10 mL) was heated for 3 h at 120° C. After coiling to room temperature, the mixture was treated with ethyl acetate (50 mL) and washed with water (20 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo. Purification on flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company) (10% ethyl acetate/hexanes) to afford 2-[5-(4-tert-butyl-phenyl)-pyridin-3-yl]-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester (0.8 g, 70%) as a white solid: MS (ESI) M+1=443.3.

reactant | 2-(5-bromo-pyridin-3-yl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester | 2.57 mmol, 1.0 g | C(C)OC(=O)C=1C=C2C(CC(NC2=CC1)C=1C=NC=C(C1)Br)(C)C | C19H21BrN2O2
reactant | 4-tert-butylbenzeneboronic acid | 3.86 mmol, 0.7 g | C(C)(C)(C)C1=CC=C(C=C1)B(O)O | C10H15BO2
reactant | cesium carbonate | 5.14 mmol, 1.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethyl formamide | 10 mL | CN(C=O)C | C3H7NO
catalyst | tetra(triphenylphosphine)palladium | 0.13 mmol, 150 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | 2-[5-(4-tert-butyl-phenyl)-pyridin-3-yl]-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester | 0.8 g, 70% | C(C)OC(=O)C=1C=C2C(CC(NC2=CC1)C=1C=NC=C(C1)C1=CC=C(C=C1)C(C)(C)C)(C)C | C29H34N2O2
